Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLE infection
 
Major Surgical or Invasive Procedure:
RLE Irrigation and Debridement

 
History of Present Illness:
Mr. ___ is a ___ y/o M w hx of depression and 3x wrist 
surgery
(at OSH) c/b extruded screw and redness, pain, and purulent
drainage from his dorsal incision.  He initially injured his
right wrist in ___ breaking up a dog fight (works at a ___
daycare). He has now undergone several procedures with Dr. ___
to salvage his wrist: 
___: removal of dorsal wrist arthrodesis plate and
placement of antibiotic spacer;  ___: wrist
arthrodesis/MFC flap/ FTSG and  ___: Excision of nonhealing
wound medial condyle. He saw Dr. ___ in clinic this week and
aspirated some fluid from the medial condyle. He was then added
to the OR schedule on ___ for incision and drainage. He did
check in to the hospital today, but his case was delayed and as
his erythema was worsening, we made the decision to admit him 
for
IV ABs. He denies fevers, chills, weakness, numbness.
 
Past Medical History:
Depression
Right wrist surgery x 3 

 
Social History:
___
Family History:
NC
 
Physical Exam:
VSS
Gen: NAD, AOX3
CV: RRR
P: unlabored breathing
GI: NTND
Ext: R thigh s/p I&D longitudinal incision c/d/i w/o surrounding 
erythema, drainage or fluctuance; not TTP 
 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on ___ 
and 
had a RLE I&D on ___.  The 
patient tolerated the procedure well.  
. 
Neuro: Post-operatively, the patient initially received IV 
dilaudid and was quickly weaned. 
When tolerating oral intake, the patient was transitioned to 
oral pain
 medications.  
. 
CV: The patient was stable from a cardiovascular standpoint; 
vital signs 
were routinely monitored. 
. 
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs
 were routinely monitored. 
. 
GI/GU: Post-operatively, the patient was given IV fluids until 
toleratin
g oral intake. His/Her diet was 
advanced when appropriate, which was tolerated well. She was 
also started
 on a bowel regimen to 
encourage bowel movement. Foley was removed on POD#2. Intake and 
output 
were closely monitored.  
. 
ID: Post-operatively, the patient was started on IV cefazolin, 
then sw
itched to PO cefadroxil for discharge 
home. The patient's temperature was closely watched for signs of 
infecti
on.  
. 
Prophylaxis: The patient received subcutaneous heparin during 
this stay, 
and was encouraged to get up 
and ambulate as early as possible.  
. 
At the time of discharge on POD#6, the patient was doing well, 
___ with stable vital signs, tolerating 
a regular diet, ambulating, voiding without assistance, and pain 
w
as well controlled. 

 
Medications on Admission:
Celexa
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  cefaDROXil 500 mg oral BID Duration: 14 Days 
RX *cefadroxil 1 gram 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four to six hours 
Disp #*25 Tablet Refills:*0 
4.  Citalopram 40 mg PO DAILY  
5.  Omeprazole 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RLE thigh infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  
. 
Personal Care: 
1. You will have a drain from after your surgery when you go 
home.
2. A written record of the daily output from the drain should be 
brought to every follow-up appointment.  
3. You may shower daily with assistance as needed.  You should 
do
this with the drain.  
5. No baths until after directed by your surgeon.
6. You may shower as normal with your wound and drain in place
7. Do NOT soak your wound in water. No pools or bath unless 
otherwise instructed
8. After you shower, place a new dressing over your wound. You 
should put 4x4 gauze and wrap it in kerlix. You may wrap the 
kerlix with an ace bandage
9. When you notice there is no more staining on your dressing, 
it is ok to not put a dressing over your stitches.
10. Please continue to wrap your drain with kerlix so that it 
remains secure.
11. Do NOT remove your drain until your follow up appointment w/ 
Dr. ___.  
. 
Activity: 
1. Avoid strenuous activity with drain in place. 
. 
Medications: 
1. Resume your regular medications unless instructed otherwise 
and
 take any new meds as ordered . 
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol 
or Extra Strength Tylenol for mild pain as directed on the 
packaging.
3. Take prescription pain medications for pain not relieved by 
tylenol. 
4. Please take you antibiotic for 14 days . 
5. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
6. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, 
etc.); you should continue drinking fluids, you may take stool 
soften
ers, and should eat foods that are high in fiber. 
. 
Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 
. 
Return to the ER if:  
* If you are vomiting and cannot keep in fluids or your 
medications.
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 

 
Followup Instructions:
___